* C:\Users\johnd\Desktop\IDE\IdeLab\Lab7\Draft1.asc
R1 P001 Frequency 10000
C1 Frequency 0 100nf
V 0 P001 AC 1
.ac oct 10 1000 1000000
.backanno
.end
